US07541478B2
(2E)-3-{3-[7-Chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylic acid tris(hydroxymethyl)methylamine salt
A mixture of (2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylic acid (10.0 g), tris(hydroxymethyl)methylamine (2.2 g), ethanol (70 ml) and acetonitrile (100 ml) was heated and stirred at 70° C. to dissolve the mixture. Acetonitrile (200 ml) was slowly added to the reaction mixture, and the mixture was stirred at 70° C. for 3 hours, gradually cooled to room temperature, and then stirred at room temperature overnight. Crystals obtained were collected by filtration, washed with acetonitrile, and dried at 60° C. for 8 hours under reduced pressure to obtain the title compound as colorless crystals (10.5 g, yield 86%). The crystals obtained showed the X-ray powder diffraction pattern as shown in FIG. 3 and crystallinity was 64%.

reactant | (2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylic acid | 10.0 g | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)O)C | C28H18ClF4NO5
reactant | tris(hydroxymethyl)methylamine | 2.2 g | OCC(N)(CO)CO | C4H11NO3
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | Acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (2E)-3-{3-[7-Chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylic acid tris(hydroxymethyl)methylamine salt | 10.5 g, yield 86% | OCC(N)(CO)CO.ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)O)C | InChI=1S/C28H18ClF4NO5.C4H11NO3/c1-14-9-18-23(13-21(14)29)39-27(38)19(26(18)16-4-2-3-15(10-16)5-8-25(36)37)12-24(35)34-22-7-6-17(30)11-20(22)28(31,32)33;5-4(1-6,2-7)3-8/h2-11,13H,12H2,1H3,(H,34,35)(H,36,37);6-8H,1-3,5H2/b8-5+;
